Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
paroxysmal unsteadiness
 
Major Surgical or Invasive Procedure:
None:

 
History of Present Illness:
___ is a ___ right handed ___ speaking man
with a past medical history of poorly controlled type 2 
diabetes,
hypertension, hyperlipidemia who was sent into the ED by his PCP
for evaluation of dizziness.
Patient reports that he was in his usual state of health until 3
days ago on ___ morning ___.  When he woke up on
___ he felt normal when he opened his eyes and when he
sat up in bed, but when he stood up he began to feel unsteady.
The unsteadiness progressed to maximum intensity in about 30
seconds. He denied lightheadedness and denied room spinning.  
The
sensation lasted for 1 to 2 hours.  It improved with eating 
food,
but he doesn't think it improves with drinking water.  Since 
this
time, he has experienced episodes of "unsteadiness" similar to
the above episode approximately ___ times per day.  Each episode
lasts for 1 to 2 hours.  Normally, he experiences this in the
morning when awakening after standing, and can also experience
that if he has gone for many hours without eating food. He
usually experiences this while standing, but it has occurred 
when
he has moved from lying to sitting as well. He has not checked
his blood sugars at home in over a year, and has also not 
checked
his blood pressure during these episodes.  His son notes that he
takes his medications, but does not follow a good diet and eats 
a
lot of sugar. He has never had symptoms like this before. In
between episodes, or when sitting or lying down, he feels 
normal.

In the ED, he had orthostatic vital signs about 45 minutes after
an LR bolus was started. His orthostatics were negative, lying
125/73 HR 69, sitting 133/77 HR 68, standing 117/67 HR 68. His 
BS
in the ED was 174. Lactate trended down to 1.9.  

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies focal muscle weakness, numbness, parasthesia.
Denies loss of sensation. The sensation of unsteadiness has not
impacted his gait. Notably, he denies other posterior 
circulation
symptoms when standing. 

On general review of systems, the patient denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
DIABETES TYPE II                                                
HYPERCHOLESTEROLEMIA                                            
HYPERTENSION                                                    
s/p b/l cataract surgery 
 
Social History:
Patient currently lives with son and wife at home, is
independent.  He smoked for about 1 to ___ years socially many
years ago.  He drinks alcohol occasionally.  He does not use
marijuana or other drugs. MRS 0  
 
Physical Exam:
on admission:
Neurologic:
-Mental Status: Alert, oriented to self, date, and hospital but
not the name of hospital. Able to relate history without
difficulty. Able to subtract 7 from 100 x1, but cannot continue
to subtract correctly. Language is fluent with intact repetition
and comprehension. Normal prosody. There were no paraphasic
errors. Patient was able to name both high and low frequency
objects. Speech was not dysarthric. Able to follow both midline
and appendicular commands.  There was no evidence of apraxia or
neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
 V: Facial sensation intact to light touch ___ bilaterally.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to ___ bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

HINTS: no vertical skew, no corrective saccade, no nystagmus
___: no reproduction of symptoms or nystagmus with head
turn in either direction. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
  [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
   [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]
L   5     5     5     5     5    5     5     5     5    5 
R   5     5     5     5     5    5     5     5     5    5

-Sensory: No deficits to light touch, proprioception throughout.
No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    1   1
 R  2  2    2    1   1
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Can stand independently, on standing reports mild
unsteadiness. Good initiation. ___, normal stride and
arm swing.  Able to toe walk, heel walk, walk in tandem without
difficulty. Romberg absent.

=======
on discharge:
PHYSICAL EXAMINATION
 Vitals: 24 HR Data (last updated ___ @ 836)
    Temp: 97.6 (Tm 97.7), BP: 130/79 (___), HR: 76
(___), RR: 18, O2 sat: 95% (___)  
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
 Pulmonary: Lungs good lung raise. 
 Cardiac: RRR, nl.
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented to self, date, and place. 
Language is fluent with intact repetition and comprehension.
Normal prosody. There were no paraphasic errors. Patient was 
able
to name both high and low frequency objects. Speech was not
dysarthric. Able to follow both midline and appendicular
commands.  There was no evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
 V: Facial sensation intact to light touch ___ bilaterally.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to ___ bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.  No pronates drift in arms or legs. 

-Sensory: No deficits to light touch,

-DTRs:
___. 
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

-Gait: Can stand independently, on standing reports mild
dizziness. Good initiation. ___, normal stride and arm
swing.  Able to toe walk, heel walk, walk in tandem without
difficulty. Romberg absent.
 
Pertinent Results:
___ 02:35PM BLOOD ___ 
___ Plt ___
___ 02:35PM BLOOD ___ 
___ Im ___ 
___
___ 06:29AM BLOOD ___ ___
___ 06:29AM BLOOD ___ 
___
___ 02:35PM BLOOD ___ 
___
___ 02:35PM BLOOD ___
___ 06:29AM BLOOD ___
___ 06:29AM BLOOD ___
___ 06:29AM BLOOD ___ 
___
___ 06:29AM BLOOD ___
___ 06:29AM BLOOD ___
___ 07:23PM BLOOD ___
___ 06:29AM BLOOD SED ___
___ 03:07PM URINE ___ 
___ 
___

------------------
EXAMINATION:  CTA HEAD AND CTA NECK PQ147 CT HEAD NECK.
 
INDICATION:  History: ___ with sudden onset dizziness x3 days  
// Rule out
intracranial bleed, ocular occlusion.  Basilar insufficiency.
 
TECHNIQUE:  Contiguous MDCT axial images were obtained through 
the brain
without contrast material. Subsequently, helically acquired 
rapid axial
imaging was performed from the aortic arch through the brain 
during the
intravenous administration of 55 mL of Omnipaque 350 nonionic 
contrast
material.  ___ angiographic volume rendered, 
curved reformatted
and segmented images were generated on a dedicated workstation. 
This report is
based on interpretation of all of these images.
 
DOSE:  Acquisition sequence:
   1) Sequenced Acquisition 16.0 s, 16.0 cm; CTDIvol = 50.2 mGy 
(Head) DLP =
802.7 ___.
   2) Stationary Acquisition 5.0 s, 0.5 cm; CTDIvol = 24.9 mGy 
(Body) DLP =
12.5 ___.
   3) Spiral Acquisition 5.0 s, 39.7 cm; CTDIvol = 15.2 mGy 
(Body) DLP = 604.3
___.
 Total DLP (Body) = 617 ___.
 Total DLP (Head) = 803 ___.
 
COMPARISON:  None available.
 
FINDINGS: 
 
CT HEAD WITHOUT CONTRAST:
There is no evidence of infarction, hemorrhage, edema, or mass.  
The
ventricles and sulci are normal in size and configuration. 
Subcortical and
periventricular white matter hypodensities are nonspecific, but 
likely reflect
the sequela of chronic small vessel ischemic disease.
 
There is no fracture. Atherosclerotic calcification of the 
carotid siphons
bilaterally. The visualized portion of the paranasal sinuses, 
mastoid air
cells, and middle ear cavities are clear. The visualized portion 
of the orbits
demonstrate prior lens surgery and are otherwise normal.
 
CTA HEAD:
There is a focal narrowing of the P1 segment (3:244) and P2 
segment of the
left posterior cerebral artery (3:241). There is a short segment 
of focal
narrowing involving the P3 segment of the right PCA (3:254). 
Hypoplastic A1
segment of the left ACA. The vessels of the circle of ___ and 
their
principal intracranial branches otherwise appear normal without 
occlusion or
aneurysm greater than 2 mm.  There is a 1 mm posteriorly 
oriented outpouching
of the terminal segment of the right internal carotid artery, 
most likely
representing an infundibulum for the posterior communicating 
artery, or a
small aneurysm (602:25).  There is atherosclerosis of the 
cavernous and
clinoid segments of the right internal carotid artery with 
moderate stenosis
of the supraclinoid segment.  There is atherosclerosis of the 
cavernous,
clinoidal and supraclinoid segments the left internal carotid 
artery with
moderate stenosis of the supraclinoid segment.  The dural venous 
sinuses are
patent.
 
CTA NECK:
Bilateral carotid and vertebral artery origins are patent. 
Normal aortic arch
morphology. Mild atherosclerotic calcification of the aortic 
arch and its
major tributaries. There is atherosclerotic calcification of the 
carotid
bifurcations bilaterally.
 
There is approximately 60% stenosis of the left internal carotid 
artery the
carotid bifurcation by NASCET criteria.  There is approximately 
40% stenosis
of the right internal carotid artery by NASCET criteria.
 
The vertebral arteries and their major branches appear normal 
with no evidence
of stenosis, occlusion or dissection.
 
OTHER:
There is mediastinal lymphadenopathy with a right paratracheal 
lymph node
measuring up to 1.2 cm in short axis (3:11). There are multiple 
prominent
preaortic and paratracheal lymph nodes, not pathologically 
enlarged by CT size
criteria. The visualized portion of the lungs are clear without 
focal
consolidation. Biapical pleural scarring. Punctate calcified 
granuloma at the
right lung apex (3:30). The visualized portion of the thyroid 
gland is normal.
Multilevel degenerative changes are visualized throughout the 
cervical spine
including a large osteophytic formation impinging the anterior 
aspect of the
thecal sac at ___ level (series 602, image 26).
 
IMPRESSION:
 
 
1. Normal head CT.  No evidence of infarction or hemorrhage.
2. Patent circle of ___ without evidence of large vessel 
occlusion or
aneurysm greater than 2 mm.
3. There are multiple focal areas of stenosis of the posterior 
cerebral
arteries as described.  No evidence of ___
4. Atherosclerotic disease involving the internal carotid 
arteries bilaterally
with 60% stenosis on the left and approximately 40% stenosis on 
the right by
NASCET criteria.
5. Patent bilateral vertebral arteries without evidence of 
stenosis,
occlusion,or dissection.
 

=========
EXAMINATION:  STROKE PROTOCOL (BRAIN W/O) ___ MR HEAD
 
INDICATION:  History: ___ with new onset dizziness, 
unsteadiness.  Evaluate
for stroke.
 
TECHNIQUE:  Sagittal T1 weighted imaging was performed. Axial 
imaging was
performed with gradient echo, FLAIR, diffusion, and T2 technique 
were then
obtained.
 
COMPARISON  CTA head and neck ___.
 
FINDINGS: 
 
There is a 3 mm focus of high signal on diffusion weighted and 
FLAIR images in
the body of the right caudate, less well seen on the ADC map 
which may be due
to the small size and gray matter location, compatible with an 
acute to early
subacute infarct.  No associated mass effect or blood products.
 
There is a small chronic cortical infarct in the right parietal 
lobe, image
6:8.  Moderately extensive T2/FLAIR hyperintensities in the 
subcortical, deep,
and periventricular white matter of the cerebral hemispheres are 
nonspecific,
though most likely sequela of chronic small vessel ischemic 
disease in this
age group.  Mildly prominent ventricles and sulci are consistent 
with age
related involutional change.  Major vascular flow voids are 
preserved.
 
The patient is status post bilateral lens replacements.  There 
is trace
mucosal thickening in the ethmoid air cells.
 
IMPRESSION:
 
 
1. 3 mm acute to early subacute infarct in the body of the right 
caudate.  No
associated edema or hemorrhagic transformation.
2. Small chronic infarct in the right parietal cortex.
3. Moderately extensive T2/FLAIR signal abnormalities in the 
supratentorial
white matter are nonspecific but likely sequela of chronic small 
vessel
ischemic disease in this age group.
 
Brief Hospital Course:
Mr. ___ is a ___ YO Right handed M with poorly controlled type 
1 diabetes, who was admitted for ___ days of paroxysmal gait 
unsteadiness with concern for posterior circulation compromise. 
He had negative ___ on admission and was not 
orthostatic. His exam on admission was normal and he remained 
with a stable neurological exam on discharge. He had no cranial 
nerve abnormalities or cerebellar signs. His gait was normal 
without significant instability with tandem testing and without 
Romberg.

Workup included CTA head and neck which demonstrated bilateral 
extracranial carotid stenosis ~50%. There is evidence of 
intracranial atherosclerotic disease, mostly in the posterior 
circulation. He underwent MRI brain which demonstrated 3 mm 
acute to early subacute infarct in the body of the right caudate 
without associated edema or hemorrhagic transformation. Small 
chronic infarct in the right parietal cortex. and other 
___ findings. 24 hours of telemetry did not find any 
paroxysmal atrial fibrillation.

Stroke risk factor labs demonstrated hemoglobin A1c of 8.7 and 
elevated triglycerides with LDL 56. Etiology of his stroke is 
most likely small vessel disease versus atheroembolic versus 
less likely paroxysmal atrial fibrillation. He notably has left 
PCA narrowing that we suspect is chronic and is not in vascular 
distribution of his foci of diffusion susceptibility.

To complete the ___, we are ordering an outpatient 
echocardiogram. As well as discharging him with a ZIO patch for 
4 weeks to look for paroxysmal atrial fibrillation.
We have started him on ___ 75 mg a day for 3 months, he is to 
continue his aspirin ongoing, and lastly we have increase his 
atorvastatin to 80 mg daily.

Overall we wonder if he may have had unsteadiness related to 
small caudate infarct vs incidental finding on MRI.

Transitional issues:
-Outpatient echocardiogram, ZIO patch for 4 weeks.
-___ with primary care provider regarding poorly 
controlled diabetes.
-___ with stroke neurology in 3 months.
- Incidental Finding to Follow up With PCP - mediastinal 
lymphadenopathy with a right paratracheal lymph node measuring 
up to 1.2 cm in short axis (3:11). There are multiple prominent 
preaortic and paratracheal lymph nodes, not pathologically 
enlarged by CT size criteria.

=================

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No.
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 57) - () No
5. Intensive statin therapy administered? (x) Yes - () No
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() ___ - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No :
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Januvia (SITagliptin) 100 mg oral DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Atorvastatin 40 mg PO QPM 
6. Calcium 600 + D(3) (calcium ___ D3) 600 mg 
calcium- 200 unit oral DAILY 
7. GlipiZIDE XL 20 mg PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
Take for 3 months  
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*3 
3.  Aspirin 81 mg PO DAILY  
4.  Calcium 600 + D(3) (calcium ___ D3) 600 mg 
calcium- 200 unit oral DAILY  
5.  GlipiZIDE XL 20 mg PO DAILY  
6.  Januvia (SITagliptin) 100 mg oral DAILY  
7.  Losartan Potassium 25 mg PO DAILY  
8.  MetFORMIN (Glucophage) 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Stroke 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You presented due to symptoms of paroxysmal unsteadiness, 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

Age, Diabetes, hyperlipidemia, atherosclerosis.

We are changing your medications as follows:

- Continue taking aspirin 81 mg daily.
- Start clopidogrel (brand name ___ 75 mg a day for 3 weeks.
- We are increasing your atorvastatin from 40 mg to 80 mg daily.

Please take your other medications as prescribed.

You were found to have high blood sugar and poorly controlled 
diabetes please ___ with your primary care provider for 
ongoing management.

You will also need to obtain a echocardiogram outpatient to 
further ___ the cause of your stroke.

You are being discharged with ___ for monitoring for 
paroxysmal atrial fibrillation (irregular heart rate) for the 
next 4 weeks.

You were found to have mediastinal lymphadenopathy ___ 
inflammation), that you should follow up with your primary care 
provider to determine if further workup is needed.   

Please follow up with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,

Your ___ Neurology Team

 
Followup Instructions:
___